US05767282
A solution of methyl glycolate (0.193 g, 2.15 mmol) in THF (21 ml) was treated with ethylvinyl ether (EVE) (1.03 ml, 10.7 mmol) and a catalytic amount of p-TsOH (41 mg). After stirring for 15 min at 0° C., the mixture was diluted with ethyl ether, washed with saturated NaHCO3 aqueous solution, brine, dried (Na2SO4) and evaporated to give methyl (1-ethoxyethoxy)acetate (0.306 g, 87%).

reactant | methyl glycolate | 2.15 mmol, 0.193 g | C(CO)(=O)OC | C3H6O3
reactant | ethylvinyl ether | 10.7 mmol, 1.03 ml | C(C)OC=C | C4H8O
reactant | p-TsOH | 41 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | THF | 21 ml | C1CCOC1 | C4H8O
solvent | ethyl ether | C(C)OCC | C4H10O
product | methyl (1-ethoxyethoxy)acetate | 0.306 g, 87% | C(C)OC(C)OCC(=O)OC | C7H14O4
